US07732460B2
(j) 3,8-Difluoro-4-hydroxy-4-(hydroxymethyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one
A solution of 3,8-difluoro-4-methylidene-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one (631 mg, 2.9 mmol) in tert-butanol/water (30 ml/30 ml) was treated with AD mix alpha (4.3 g) under argon. After 18 hours stirring the reaction mixture was treated with saturated sodium sulphite solution (30 ml). After 10 minutes stirring the mixture was extracted with 20% methanol in dichloromethane (3×300 ml). The organic extracts were dried over magnesium sulphate and evaporated affording a white solid (710 mg, 97%).

reactant | 3,8-difluoro-4-methylidene-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 2.9 mmol, 631 mg | FC=1C=NC=2C=C(C(N3C2C1C(C3)=C)=O)F | C11H6F2N2O
reactant | sodium sulphite | 30 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butanol water | 30 ml | C(C)(C)(C)O.O
product | 3,8-Difluoro-4-hydroxy-4-(hydroxymethyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 710 mg, 97% | FC=1C=NC=2C=C(C(N3C2C1C(C3)(CO)O)=O)F | C11H8F2N2O3
